US04694080
3-Cyano-4-hydroxy-2-methyl-1,2-benzothiazine 1,1-Dioxide
To a solution of o-carbomethoxy-N-cyanomethyl-N-methylbenzenesulfonamide (108 g) in toluene (600 ml) was added 28% sodium methoxide-methanol solution (83 ml) with vigorous stirring. After 2 hours the solvent was evaporated to ca. 400 ml and water (800 ml) added to dissolve the viscous residue. The pH was adjusted to ca. 2 with 6N HCl. The resulting crystals were granulated for 1 hour, filtered off, washed with water and dried in vacuo to give the title product, 77.2 g (81.1%). Purified product was obtained in 75% yield by dissolving the compound (3.3 g) in isopropanol, followed by dropwise addition of water (35 ml).

reactant | o-carbomethoxy-N-cyanomethyl-N-methylbenzenesulfonamide | 108 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N(C)CC#N | C11H12N2O4S
reactant | sodium methoxide methanol | 83 ml | C[O-].[Na+].CO
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyano-4-hydroxy-2-methyl-1,2-benzothiazine 1,1-Dioxide | 75% yield | C(#N)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C10H8N2O3S
